Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pancreatic mass seen on CT
 
Major Surgical or Invasive Procedure:
___:
1. Diagnostic laparoscopy.
2. Exploratory laparotomy.
3. ___ maneuver with mobilization of the right 
colon, hepatic flexure, duodenum and head of pancreas with 
exploration of the distal superior mesenteric vein.
4. Intraoperative ultrasound.
5. Placement of gold fiducials for possible CyberKnife.
6. Cholecystectomy.
 
History of Present Illness:
___ with no significant PMHx who was found to have a pancreatic 
mass during work-up for fevers in ___ after returning 
from a trip to the ___. During his work-up, he 
was found to have a pancreatic head mass (2 x 1.3 cm) with 
features concerning for carcinoma which was followed by 
Pancreatic Protocol CT Scan on ___. The patient denied any
weight loss, loss of appetite, nausea/vomiting, jaundice, 
itching, any h/o pancreatitis or any family h/o pancreatic 
cancer. He also had abnormal LFTs during his this medicine 
admission for fever work-up (TBili max - 2.5, Alk Phos - 280), 
which had normalized at the time of discharge. EUS was performed 
on ___ and was non-diagnostic, biopsy was nondiagnostic as well. 
Secondary to risk of pancreatic malignancy, patient was 
evaluated by Dr. ___ in her ___ ___ clinic following 
his discharge for possible resection of pancreatic mass.
 
Past Medical History:
Disc protusions C4-C5, C5-C6  
Rotator cuff repair s/p arthroscopy  

 
Social History:
___
Family History:
Mother with "heart disease"
 
Physical Exam:
VITALS: Temp 99.8, HR 89, BP 139/80, RR 18, SpO2 93% on Room Air

GEN: NAD, well appearing and pleasant
HEENT: NCAT, PERRLA, EOMI, no scleral icterus
CV: RRR
RESP: breathing comfortably on room air
GI: soft, mild distension and appropriate post-operative TTP, 
midline laparotomy is well healing and appropriately covered 
with steri-stips with no purulent drainage or active bleeding, 
no masses, hernias, R/G/D
EXT: well perfused, no edema
NEURO: A&OX3
 
Pertinent Results:
PATHOLOGY: Gallbladder - Pending 

Imaging:

Final Report
EXAMINATION:  US INTRA-OP ___ MINS
 
INDICATION:  ___ year old man with pancreatic mass  // evaluate 
questionable pancreatic mass, ? open biopsy
 
TECHNIQUE:  Open intraoperative ultrasound
 
COMPARISON:  CT ___.
 
FINDINGS: 
 
High-resolution grayscale and color flow Doppler imaging of the 
pancreas was performed using the drop-in probe imaging at 12 
megahertz frequency.  The pancreas was not well visualized and 
normal in uniform and echotexture throughout with no focal mass 
identified.  The pancreatic duct is mildly dilated in the body 
and tail, less dilated in the head.  No duct stones or 
parenchymal calcifications were seen.  Both grayscale and 
color-flow Doppler imaging show no evidence of a pancreatic head 
mass.
 
IMPRESSION: 
 
Normal-appearing pancreatic parenchyma with no focal mass 
identified.

Final Report
EXAMINATION:  CHEST (PORTABLE AP)
 
INDICATION:  ___ year old man POD1 with temp 101.9, tachy 110s  
// r/o PNA
 
TECHNIQUE:  Chest single view
 
COMPARISON:  ___
 
FINDINGS: 
 
There is shallow inspiration.  Bibasilar opacities, new since 
prior exam, favor atelectasis; consider pneumonitis in the 
appropriate clinical setting. 
Suggestion of tiny left pleural effusion.  Catheter projected 
over paraspinal soft tissues.  Surgical clips in the upper 
abdomen.  Few mildly distended loops of colon in the upper 
abdomen.  Mildly distended stomach.  Postoperative changes in 
the left shoulder.
 
IMPRESSION: 
 
New bibasilar opacities in the setting of very shallow 
inspiration, favor
atelectasis ; consider pneumonitis in the appropriate clinical 
setting.
 

CBC:
___ 04:42AM BLOOD WBC-8.8 RBC-3.52* Hgb-10.0* Hct-31.9* 
MCV-91 MCH-28.4 MCHC-31.3* RDW-13.6 RDWSD-44.9 Plt ___
___ 07:56PM BLOOD Glucose-113* UreaN-10 Creat-0.9 Na-135 
K-3.8 Cl-100 HCO3-27 AnGap-12
___ 05:54AM BLOOD WBC-10.5*# RBC-3.60* Hgb-10.5* Hct-32.7* 
MCV-91 MCH-29.2 MCHC-32.1 RDW-13.8 RDWSD-45.9 Plt ___

UA:
___ 06:50PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.5 Leuks-SM 

Urine Culture:
___ 6:50 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

Back
 
Brief Hospital Course:
___ with pancreatic mass seen on CT was admitted to the Surgical 
Oncology Service same day for elective Whipple procedure on 
___. The patient was taken to the OR for diagnostic 
laparoscopy and planned Whipple procedure with possible vascular 
reconstruction. During the operation pancreatic mass was not 
identified by intraoperative examination or ultrasound, patient 
underwent open cholecystectomy and placement of gold fiducials 
for possible radiation therapy, which went well without 
complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor on sips of clears, on IV fluids, 
with a foley catheter, and epidural for pain control. The 
patient was hemodynamically stable.

Post-operative pain was initially well controlled with epidural, 
which was converted to oral pain medication on POD 2. The Diet 
was progressively advanced as tolerated to a regular diet by 
POD# 1. The foley catheter was discontinued at midnight of POD# 
2. The patient subsequently voided without problem. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*20 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth twice a day Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic mass, question cancer, with no evidence of mass on 
intraoperative ultrasound or intraoperative examination (final 
pathology pending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___

___ were admitted to the surgery service at ___ for planned 
Whipple procedure, during the operation, the pancreatic mass was 
not identified despite repeated intra-operative imaging with 
ultrasound. ___ underwent a diagnostic laparotomy, 
intraoperative ultrasound and open cholecystectomy. ___ have 
done well in the post operative period and are now safe to 
return home to complete your recovery with the following 
instructions:
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until ___ follow-up with your 
surgeon, who will instruct ___ further regarding activity 
restrictions.

Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if ___ have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
___ may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If ___ have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

Good Luck
 
Followup Instructions:
___